US05455260
N-trityl-N-[2-(4-(benzoxazol-2-yl)benzyloxy)ethyl]-2-(4-phenylbutoxy)ethanamine (600 mg) is dissolved in a solution of CH2Cl2 (10 ml) and EtOH (10 ml) and treated with a solution of EtOH/HCl until acidic by pH paper. The solution is concentrated in vacuo, then purified by column chromatography using 5% MeOH/CH2Cl2. The residue is isolated, dissolved in methanol and acidified with acidic methanol. The solution is concentrated to obtain N-[2-(4-(benzoxazol-2-yl)benzyloxy)ethyl]-2-(4-phenylbutoxy)ethanamine hydrochloride (m.p. 121°-125° C.).

reactant | N-trityl-N-[2-(4-(benzoxazol-2-yl)benzyloxy)ethyl]-2-(4-phenylbutoxy)ethanamine | 600 mg | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N(CCOCCCCC1=CC=CC=C1)CCOCC1=CC=C(C=C1)C=1OC2=C(N1)C=CC=C2 | C47H46N2O3
reactant | EtOH HCl | CCO.Cl
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
solvent | EtOH | 10 ml | CCO | C2H6O
solvent | methanol | CO | CH4O
product | N-[2-(4-(benzoxazol-2-yl)benzyloxy)ethyl]-2-(4-phenylbutoxy)ethanamine hydrochloride | Cl.O1C(=NC2=C1C=CC=C2)C2=CC=C(COCCNCCOCCCCC1=CC=CC=C1)C=C2 | InChI=1S/C28H32N2O3.ClH/c1-2-8-23(9-3-1)10-6-7-19-31-20-17-29-18-21-32-22-24-13-15-25(16-14-24)28-30-26-11-4-5-12-27(26)33-28;/h1-5,8-9,11-16,29H,6-7,10,17-22H2;1H
